US08048894B2
Method 5. Preparation of 4-(3-(3-Carboxypropanoyl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinolin-7-yl)benzoic acid
4-(7-(4-(tert-Butoxycarbonyl)phenyl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)-4-oxobutanoic acid. tert-Butyl 4-(4-hydroxy-1-methyl-2-oxo-3-(4-oxobutanoyl)-1,2-dihydroquinolin-7-yl)benzoate (130 mg, 299 μmol) was dissolved in DMF (1493 μl). Oxone (184 mg, 299 μmol) was added to the mixture at room temperature, and the resulting mixture was stirred for 1 hour. Water was added to precipitate the product from solution. The mixture was filtered, washed with water and ether, and dried in a vacuum oven to give the title compound as an off-white solid.

reactant | 4-(7-(4-(tert-Butoxycarbonyl)phenyl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)-4-oxobutanoic acid | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)C1=CC=C2C(=C(C(N(C2=C1)C)=O)C(CCC(=O)O)=O)O | C25H25NO7
reactant | tert-Butyl 4-(4-hydroxy-1-methyl-2-oxo-3-(4-oxobutanoyl)-1,2-dihydroquinolin-7-yl)benzoate | 299 μmol, 130 mg | OC1=C(C(N(C2=CC(=CC=C12)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)=O)C(CCC=O)=O | C25H25NO6
reactant | Oxone | 299 μmol, 184 mg | OOS(=O)[O-].[K+]
reactant | Water | O | H2O
solvent | DMF | 1493 μl | CN(C)C=O | C3H7NO
product | 4-(3-(3-Carboxypropanoyl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinolin-7-yl)benzoic acid | C(=O)(O)CCC(=O)C=1C(N(C2=CC(=CC=C2C1O)C1=CC=C(C(=O)O)C=C1)C)=O | C21H17NO7
